US07253198B2
4-Chlorobutyryl chloride (2.82 g, 20 mmol, 2.0 equiv) in CH2Cl2 (5 ml) was added over 2 min to a stirred solution of 3-amino-4-chloro-benzoic acid methyl ester (D27c) (1.66 g, 10 mmol, 1 equiv) and NEt3 (2.22 g, 22 mmol, 2.2 equiv) in CH2Cl2 (40 ml). The resulting mixture was stirred for 1 h at room temperature then washed with 2N aqueous HCl solution, dried over MgSO4 and concentrated in vacuo. The residue was triturated with CH2Cl2 to give 4-chloro-3-(4-chloro-butanoylamino)-benzoic acid methyl ester (D28c) (1.81 g, 48%) as a pale pink solid.

reactant | 4-Chlorobutyryl chloride | 20 mmol, 2.82 g, 2.0 equiv | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 3-amino-4-chloro-benzoic acid methyl ester | 10 mmol, 1.66 g, 1 equiv | COC(C1=CC(=C(C=C1)Cl)N)=O | C8H8ClNO2
reactant | NEt3 | 22 mmol, 2.22 g, 2.2 equiv | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-(4-chloro-butanoylamino)-benzoic acid methyl ester | 1.81 g, 48% | COC(C1=CC(=C(C=C1)Cl)NC(CCCCl)=O)=O | C12H13Cl2NO3
